US03985895
2.3 G. of N,N-diethyl-N'-{6,11-dihydro-dibenzo[b,e]thiepin-11-yl}-1,3-propanediamine are dissolved in 50 ml. of absolute tetrahydrofuran and treated dropwise, while stirring, with 6 ml. of 14% aqueous sodium hypochlorite solution. The mixture is stirred at 40°-50° C. for 4 hours, cooled and mixed with 100 ml. of water. The organic phase is extracted with ether. The ether extract is dried over sodium sulfate and evaporated under reduced pressure. The residue is purified by chromatography over aluminum oxide using toluene for the elution. There is obtained N,N-diethyl-N'-{dibenzo[b,e]thiepin-11(6H)-ylidene}-1,3-propanediamine which is taken up in acetone and treated with a solution of 0.4 g. of oxalic acid in 10 ml. of absolute acetone. There is thus obtained N,N-diethyl-N'-{dibenzo[b,e]thiepin-11(6H)-ylidene}-1,3-propanediamine oxalate of melting point 130°-133° C.

reactant | N,N-diethyl-N'-{6,11-dihydro-dibenzo[b,e]thiepin-11-yl}-1,3-propanediamine | C(C)N(CCCNC1C2=C(SCC3=C1C=CC=C3)C=CC=C2)CC | C21H28N2S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hypochlorite | Cl[O-].[Na+]
solvent | water | O | H2O
product | N,N-diethyl-N'-{dibenzo[b,e]thiepin-11(6H)-ylidene}-1,3-propanediamine | C(C)N(CCCN=C1C2=C(SCC3=C1C=CC=C3)C=CC=C2)CC | C21H26N2S
